US06869952B2
[4-(4-Fluoro-2-methyl-1H-indol-5-yloxy)-5-methylpyrrolo[2,1-f][1,2,4]triazin-6-yl]-methanol
To a solution of 4-(4-fluoro-2-methyl-1H-indol-5-yloxy)-5-methyl-pyrrolo[2,1-f][1,2,4]triazine-6-carboxylic acid ethyl ester (68 mg 0.19 mmol) in anhydrous methylene chloride (2.0 mL) at −78° C. under argon was added DIBAL (0.48 mmol, 0.48 mL, 1.0M, 2.5 eq.) dropwise. After 5 minutes, the mixture was warmed to −15° C. and allowed to stir for an additional 15 minutes. A drop of ethanol was added to quench the reaction followed by IN sodium hydroxide (0.2 mL) and 1.0 mL of ethyl acetate and 1.0 mL of THF. After 30 minutes, the mixture was filtered to remove the resulting solid. The filtrate was dried, concentrated in vacuo, and chromatographed using silica gel eluting with 40-75% ethyl acetate in hexanes (gradient). Concentration of the desired fractions afforded the title compound (39 mg, 63%) as a clear oil. LC/MS; (M+H)+=327.3

reactant | 4-(4-fluoro-2-methyl-1H-indol-5-yloxy)-5-methyl-pyrrolo[2,1-f][1,2,4]triazine-6-carboxylic acid ethyl ester | 0.19 mmol, 68 mg | C(C)OC(=O)C=1C(=C2C(=NC=NN2C1)OC=1C(=C2C=C(NC2=CC1)C)F)C | C19H17FN4O3
reactant | DIBAL | 0.48 mmol, 1.0M, 0.48 mL, 2.5 eq. | CC(C)C[AlH]CC(C)C
reactant | ethanol | C(C)O | C2H6O
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
product | [4-(4-Fluoro-2-methyl-1H-indol-5-yloxy)-5-methylpyrrolo[2,1-f][1,2,4]triazin-6-yl]-methanol | 39 mg, 63% | FC1=C2C=C(NC2=CC=C1OC1=NC=NN2C1=C(C(=C2)CO)C)C | C17H15FN4O2
